US05424439
0.68 g of nitronium tetrafluoroborate are added in small portions to a solution of 0.76 g of 2-amino-4-trimethylsilyl-6-trifluoromethoxybenzothiazole in 20 cm3 of acetonitrile cooled to 0° C. Stirring is continued for 12 hours at a temperature close to 20° C. The solution is then diluted with 50 cm3 of water and extracted with 2 times 50 cm3 of ethyl acetate. The organic phases are combined, dried over sodium sulphate and concentrated in vacuum. The residue is purified by flash chromatography on silica gel with a cyclohexane-ethyl acetate mixture (7-3 by volume) as eluent. After recrystallization from a cyclohexane-ethyl acetate mixture (3-2 by volume), 0.3 g of 2-amino-4-nitro-6-trifluoromethoxybenzothiazole melting at 260° C. is obtained.

reactant | nitronium tetrafluoroborate | 0.68 g | F[B-](F)(F)F.O=[N+]=O
reactant | 2-amino-4-trimethylsilyl-6-trifluoromethoxybenzothiazole | 0.76 g | NC=1SC2=C(N1)C(=CC(=C2)OC(F)(F)F)[Si](C)(C)C | C11H13F3N2OSSi
solvent | acetonitrile | 20 cm3 | C(C)#N | C2H3N
solvent | water | 50 cm3 | O | H2O
product | 2-amino-4-nitro-6-trifluoromethoxybenzothiazole | 0.3 g | NC=1SC2=C(N1)C(=CC(=C2)OC(F)(F)F)[N+](=O)[O-] | C8H4F3N3O3S
